US08536211B2
Another process for the preparation of 5-benzoyl-1-methyltetrazole is known from J. Amer. Chem. Soc. 1963, 85, 2967-2976. Benzyl cyanide is reacted with ammonium azide to give 5-benzyltetrazole and then oxidized with chromium trioxide to give 5-benzoyltetrazole. The methylation to 5-benzoyl-1-methyltetrazole takes place with diazomethane. This synthesis route is likewise disadvantageous as regards safety and economical aspects.

reactant | 5-benzoyl-1-methyltetrazole | C(C1=CC=CC=C1)(=O)C1=NN=NN1C | C9H8N4O
reactant | Benzyl cyanide | C(C1=CC=CC=C1)C#N | C8H7N
reactant | ammonium azide | [N-]=[N+]=[N-].[NH4+]
product | 5-benzyltetrazole | C(C1=CC=CC=C1)C1=NN=NN1 | C8H8N4
